US06525074B2
Step C: Preparation of N-(3-hydroxy-propyl)-3-methoxy-benzenesulfonamide
3-(3-Methoxy-benzenesulfonylamino)-propionic acid (0.755 g, 2.91 mmol), was dissolved in THF (10 mL), cooled in an ice-H2O bath, and treated with borane THF complex (3.49 mL of a 1M solution, 3.49 mmol) with stirring. After warming to room temperature over 1 h, the reaction was cooled in an ice bath, and quenched by dropwise addition of H2O, then partitioned between H2O and CH2Cl2. The aqueous layer was washed with CH2Cl2 (3×20 mL), dried (MgSO4). Filtration and concentration in vacuo gave the title compound which was used without further purification.

reactant | 3-(3-Methoxy-benzenesulfonylamino)-propionic acid | 2.91 mmol, 0.755 g | COC=1C=C(C=CC1)S(=O)(=O)NCCC(=O)O | C10H13NO5S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-(3-hydroxy-propyl)-3-methoxy-benzenesulfonamide | OCCCNS(=O)(=O)C1=CC(=CC=C1)OC | C10H15NO4S
